US06194406B1
Combine methyl 2-methoxy-5-(1H-tetrazol-1-ylmethyl)benzoate (0.45 g, 1.73 mmol) and methanol/tetrahydrofuran (1/1, 10 mL). Add a 1 M aqueous solution of lithium hydroxide (5.8 mL, 5.8 mmol). After 4 hours, partition the reaction mixture between water and ethyl acetate. Acidify the aqueous with a 10% aqueous citric acid solution, extract four times with ethyl acetate, combine the ethyl acetate layers, dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give 2-methoxy-5-(1H-tetrazol-1-ylmethyl)benzoic acid: Rf=0.60 (silica gel, 1/1 methanol/dichloromethane).

reactant | methyl 2-methoxy-5-(1H-tetrazol-1-ylmethyl)benzoate | 1.73 mmol, 0.45 g | COC1=C(C(=O)OC)C=C(C=C1)CN1N=NN=C1 | C11H12N4O3
reactant | lithium hydroxide | 5.8 mmol, 5.8 mL | [OH-].[Li+]
solvent | ethyl acetate hexane | 10 mL | C(C)(=O)OCC.CCCCCC
product | 2-methoxy-5-(1H-tetrazol-1-ylmethyl)benzoic acid | COC1=C(C(=O)O)C=C(C=C1)CN1N=NN=C1 | C10H10N4O3
